US08222416B2
A mixture of 1-benzenesulfonyl-2-{2-cyclopentyl-1-[4-(2-methoxy-ethanesulfonyl)-phenyl]-vinyl}-5-fluoro-1H-pyrrolo[2,3-b]pyridine (400 mg, 0.7 mmol) in ethanol (4 mL), tetrahydrofuran (8 mL) and an aqueous sodium hydroxide solution (10%, 2 mL) was heated at 50° C. for 5 h. The mixture was diluted with dichloromethane (50 mL), washed with water, dried over anhydrous sodium sulfate and then concentrated in vacuo to afford 2-{2-cyclopentyl-1-[4-(2-ethoxy-ethanesulfonyl)-phenyl]-vinyl}-5-fluoro-1H-pyrrolo[2,3-b]pyridine (300 mg, 96%) which was used in the next step without further purification: LC/MS m/e calcd for C24H27FN2O3S [M+H]+ 443.56, observed 443.3.

reactant | 1-benzenesulfonyl-2-{2-cyclopentyl-1-[4-(2-methoxy-ethanesulfonyl)-phenyl]-vinyl}-5-fluoro-1H-pyrrolo[2,3-b]pyridine | 0.7 mmol, 400 mg | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)F)C(=CC2CCCC2)C2=CC=C(C=C2)S(=O)(=O)CCOC | C29H29FN2O5S2
reactant | sodium hydroxide | 2 mL | [OH-].[Na+]
reactant | ethanol | 4 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 2-{2-cyclopentyl-1-[4-(2-ethoxy-ethanesulfonyl)-phenyl]-vinyl}-5-fluoro-1H-pyrrolo[2,3-b]pyridine | 300 mg, 96% | C1(CCCC1)C=C(C1=CC=C(C=C1)S(=O)(=O)CCOCC)C1=CC=2C(=NC=C(C2)F)N1 | C24H27FN2O3S
